US09126969B2
A suspension of 11.9 g of 5-fluoro-6-(4-methylperhydro-1,4-diazepin-1-yl)-2-[4-nitro-1-(tetrahydropyran-2-yl)-1H-pyrazol-3-yl]-1H-benzimidazole in 260 mL of methanol and 1.2 g of palladium-on-charcoal is hydrogenated under 1 bar of hydrogen pressure at ambient temperature for 18 hours. The reaction medium is filtered through celite and the filtrate is concentrated under reduced pressure in a rotary evaporator. 10.9 g of 3-[5-fluoro-6-(4-methylperhydro-1,4-diazepin-1-yl)-1H-benzimidazol-2-yl]-1-(tetrahydropyran-2-yl)-1H-pyrazol-4-ylamine are obtained in the form of a brown powder. 1H NMR (300 MHz, DMSO-d6, δ in ppm): 1.43 to 2.17 (m, 8H); 2.33 (s, 3H); 2.64 (m, 2H); 2.73 (m, 2H); from 3.20 to 3.40 (m masked, 4H); 3.62 (m, 1H); 3.95 (m, 1H); 4.92 (broad s, 2H); 5.31 (dd, J=2.5 and 10.0 Hz, 1H); from 6.91 to 7.36 (m, 2H); 7.31 (s, 1H); 12.4 (broad m, 1H). ES mass spectrum: m/z=414: MH+ (base peak)—m/z=330: (MH−C5H8O)+

reactant | 5-fluoro-6-(4-methylperhydro-1,4-diazepin-1-yl)-2-[4-nitro-1-(tetrahydropyran-2-yl)-1H-pyrazol-3-yl]-1H-benzimidazole | 11.9 g | FC1=CC2=C(NC(=N2)C2=NN(C=C2[N+](=O)[O-])C2OCCCC2)C=C1N1CCN(CCC1)C | C21H26FN7O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 260 mL | CO | CH4O
catalyst | palladium-on-charcoal | 1.2 g | [Pd] | Pd
product | 3-[5-fluoro-6-(4-methylperhydro-1,4-diazepin-1-yl)-1H-benzimidazol-2-yl]-1-(tetrahydropyran-2-yl)-1H-pyrazol-4-ylamine | 10.9 g | FC1=CC2=C(NC(=N2)C2=NN(C=C2N)C2OCCCC2)C=C1N1CCN(CCC1)C | C21H28FN7O
